US07259262B2
iii) 4-Chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole
4.10 g (15.0 mmol) 3-(4-Pentafluorosulfanyl-phenyl)-acrylamide, 2.37 g (18.7 mmol) dichloro acetone and 25.0 ml toluene were kept at reflux temperature for 12 h with continuous removal of water by use of a Dean-Stark trap. The reaction mixture was evaporated and purified by chromatography on silica gel (eluent: heptane/ethyl acetate 5:1). All fractions containing the product were evaporated and the residue stirred with 10 ml isohexane, the crystallized material isolated by filtration dried. Yield: 4.40 g (85%) 4-Chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole.

reactant | 3-(4-Pentafluorosulfanyl-phenyl)-acrylamide | 15.0 mmol, 4.10 g | FS(C1=CC=C(C=C1)C=CC(=O)N)(F)(F)(F)F | C9H8F5NOS
reactant | dichloro acetone | 18.7 mmol, 2.37 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 25.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
